US06391915B2
Under nitrogen, N-benzyl-(1-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (4.5 g) in dichloromethane (45 ml) was added boron tribromide (1M in dichloromethane, 32 ml) dropwise at 0° C., and the mixture was stirred at the same temperature for 2 hours. The resulting mixture was poured into ice-cold water and the precipitate was collected by filtration. The filter cake was added to the mixture of water and ethyl acetate, and then adjusted to pH 9 with 1N sodium hydroxide. After separation, the organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo to afford N-benzyl-(1-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (3.72 g).

reactant | N-benzyl-(1-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 4.5 g | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C(=CC=C2)OC | C19H23NO
reactant | boron tribromide | 1M, 32 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | N-benzyl-(1-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 3.72 g | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C(=CC=C2)O | C18H21NO
